US08633200B2
(S)-methyl 2-(7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate
To a stirred solution of methyl 2-(7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (1.8 g, 4.94 mmol) in anhydrous toluene (30 mL) was added 1.1M (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole/toluene (1.797 mL, 1.977 mmol). The mixture was cooled to −40° C. (acetonitrile/dry ice bath) and a solution of 50% (by weight) catechoborane in toluene (1.695 mL, 6.92 mmol) was added over 30 min. After stirred at −45-−35° C. for 2 hrs, the reaction mixture was stirred at −25° C.-−15° C. for additional 1 h. Saturated Na2CO3 solution (20 mL) was added to quench the reaction. The mixture was stirred vigorously for 30 min and extracted with EtOAc. The organic layer was washed with saturated Na2CO3 solution and dried (Na2SO4). The solvent was evaporated and the residue was purified by silica gel chromatography (15-50% EtOAc/hexane) to afford (1.5 g, 83%) of the title compound. 1H NMR (500 MHz, CHLOROFORM-d) δ 8.05-7.97 (m, 1H), 7.88 (dt, J=6.7, 1.8 Hz, 1H), 7.44-7.38 (m, 2H), 6.93 (s, 1H), 5.76 (s, 1H), 3.84 (s, 3H), 2.62 (s, 3H).

reactant | methyl 2-(7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 4.94 mmol, 1.8 g | ClC1=C(C(=NC=2N1N=C(C2)C2=CC(=CC=C2)Cl)C)C(C(=O)OC)=O | C16H11Cl2N3O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole toluene | 1.977 mmol, 1.1M, 1.797 mL | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2.C1(=CC=CC=C1)C
reactant | acetonitrile dry ice | C(C)#N.C(=O)=O
reactant | Na2CO3 | 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6.92 mmol, 1.695 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-methyl 2-(7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 1.5 g, 83% | ClC1=C(C(=NC=2N1N=C(C2)C2=CC(=CC=C2)Cl)C)[C@@H](C(=O)OC)O | C16H13Cl2N3O3
